US06903126B2
6-[[1-Phenyl-2-propylamino-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
200 mg of 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester was dissolved in 2 ml of methanol, the solution was mixed with 90 μl of propylisothiocyanate, and the mixture was heated for 3 hours to 50° C. After cooling, it was mixed with saturated ammonium chloride solution, diluted with water, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 140 mg of a thiourea derivative, which was dissolved in 1.5 ml of methanol, was obtained. 0.16 ml of iodomethane was added to this solution, and it was refluxed for 4 hours. After cooling, it was mixed with 1N aqueous hydrochloric acid, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 72 mg was obtained.

reactant | 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester | 200 mg | COC(CCCCCOC1=CC(=C(C=C1)N)NC1=CC=CC=C1)=O | C19H24N2O3
reactant | propylisothiocyanate | 90 μl | C(CC)N=C=S | C4H7NS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | iodomethane | 0.16 ml | IC | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 6-[[1-Phenyl-2-propylamino-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)NCCC)C2=CC=CC=C2)C1)=O | C23H29N3O3
